US07141637B2
6.22 g (0.010 mol) of the dimethylsilyl ligand above were dissolved in 75 mL of ether, treated with 8.2 mL of butyllithium in hexanes (2.5 M, 0.021 mol), and stirred at 40° C. for 6 h. ZrCl4 (2.3 g, 0.010 mol) was added, and the mixture was stirred for 18 h. The resulting yellow precipitate was collected on a closed frit (5.5 g), and the filtrate evaporated to orange solids (3.3 g). The yellow precipitate was stirred in dichloromethane (150 mL), filtered, and solvent removed from the filtrate to give 3.8 g of zirconocene (51%, 60:40 rac:meso ratio). A 12:1 rac:meso sample (1.0 g) was obtained by slow evaporation of a dichloromethane/hexane solution of the zirconocene. 1H-NMR δ (CDCl3): (rac isomer) 7.6–7.7 (m, 3H), 7.4–7.55 (m, 7H), 7.08 (s, 1H), 6.6 (s, 1H), 3.2 (m, 1H), 2.6 (s, 3H), 2.4 (s, 3H), 1.58 (s, 9H), 1.56 (s, 9H), 1.3 (s, 3H), 1.18 (s, 3H), 1.1 (d, 3H), 0.95 (d, 3H).

reactant | butyllithium | 8.2 mL | C(CCC)[Li]
reactant | ZrCl4 | 0.010 mol, 2.3 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | ether | 75 mL | CCOCC | C4H10O
product | zirconocene | 3.8 g, 51% | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
